US04782057
A solution of 7-nitro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid and phenylhydrazine in ethanol is refluxed under heating for 10 hours. The ethanol is distilled off and to the residue is added acetic acid and then the resulting mixture is refluxed under heating for 8 hours. After the acetic acid is distilled off, the mixture is extracted with chloroform and the extract is washed with water. After drying over magnesium sulfate anhydride, the chloroform is distilled off to give 9-nitro-2-phenyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one.

reactant | 7-nitro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetic acid | [N+](=O)([O-])C1=CC=C2CCC(C(C2=C1)=O)CC(=O)O | C12H11NO5
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | C(C)O | C2H6O
product | 9-nitro-2-phenyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | [N+](=O)([O-])C1=CC2=C(CCC3CC(N(N=C23)C2=CC=CC=C2)=O)C=C1 | C18H15N3O3
